US06242422B1
(2S)-2-(1-Naphthyloxy)-4-Carbobenzyloxy-Butyric Acid Methyl Ester
To a solution of (2R)-2-bromo-4-carbobenzyloxy-butyric acid methyl ester (1.00 g, 3.17 mmol) and 1-naphthol (0.500 g, 3.47 mmol) in dimethylformamide (4.0 mL) at room temperature under nitrogen was added powdered anhydrous K2CO3 (0.560 g, 4.7 mmol). After stirring at room temperature for 3.5 hrs, the mixture was partitioned between EtOAc-water. The organic phase was washed with water, 5% KHSO4 and saturated NaCl solutions, dried over anhydrous Na2SO4 and evaporated to a yellow oil. The crude product was purified by flash chromatography on silica gel eluting with Et2O-hexane(1:4) to give the title compound (1.105 g, 92%) as a pale yellow oil. TLC(Et2O-hexane; 3:7; 2 developments) Rf=0.33 (bromide Rf=0.52; 1-naphthol Rf=0.41).

reactant | (2R)-2-bromo-4-carbobenzyloxy-butyric acid methyl ester | 3.17 mmol, 1.00 g | COC([C@@H](CCC(=O)OCC1=CC=CC=C1)Br)=O | C13H15BrO4
reactant | 1-naphthol | 3.47 mmol, 0.500 g | C1(=CC=CC2=CC=CC=C12)O | C10H8O
reactant | K2CO3 | 4.7 mmol, 0.560 g | C(=O)([O-])[O-].[K+].[K+]
solvent | dimethylformamide | 4.0 mL | CN(C=O)C | C3H7NO
product | (2S)-2-(1-Naphthyloxy)-4-Carbobenzyloxy-Butyric Acid Methyl Ester | 1.105 g, 92% | COC([C@H](CCC(=O)OCC1=CC=CC=C1)OC1=CC=CC2=CC=CC=C12)=O | C23H22O5
